US05952327
17.8 g of dibenzyl hydroxymethylphosphonate were dissolved in 120 ml of dry dichloromethane. After cooling to -50° C., first 7.3 g of 2,6-lutidine, then 10.6 ml of trifluoromethanesulfonic anhydride were successively added dropwise with exclusion of moisture. The reaction mixture was first stirred at -50° C. for 1 hour, then at 0° C. for 1 hour. For work-up, this mixture was poured onto ice-cold water and the organic phase was first washed with dilute ice-cold hydrochloric acid, then with ice-cold water. After drying of the organic phase over sodium sulfate and filtration, it was evaporated in vacuo. The crude product obtained was chromatographed on 200 g of silica gel (eluent: n-hexane/ethyl acetate 3:2). After concentrating and drying the product fractions, 17.0 g of oily dibenzylphosphonomethyl trifluoromethylsulfonate were obtained.

reactant | dibenzyl hydroxymethylphosphonate | 17.8 g | OCP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C15H17O4P
reactant | 2,6-lutidine | 7.3 g | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 10.6 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | dibenzylphosphonomethyl trifluoromethylsulfonate | 17.0 g | FC(F)(F)S(=O)(=O)OCP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C16H16F3O6PS
